.title kicad schematic

.include BA10339_s.sub
r2 out1 net-_r2-pad2_ 10k
v1 net-_r2-pad2_ gnd  dc 15v
v2 in gnd sine(7.5v 1v 50 0 0)
* u2 out1 plot_v1
x1 unconnected-_x1-pad1_ out1 net-_r2-pad2_ in gnd unconnected-_x1-pad6_ unconnected-_x1-pad7_ unconnected-_x1-pad8_ unconnected-_x1-pad9_ unconnected-_x1-pad10_ unconnected-_x1-pad11_ gnd unconnected-_x1-pad13_ unconnected-_x1-pad14_ BA10339_s
.tran 0.1e-03 50e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out1)
.endc
.end
