.title kicad schematic

* u59 out plot_v1
r4 out gnd 1k
r3 out' gnd 1k
* u57 9_out plot_v1
* u58 out' plot_v1
r2 9_out gnd 1k
r1 inh_out gnd 1k
* u33 net-_u13-pad2_ net-_u21-pad2_ net-_u33-pad3_ d_and
* u34 net-_u14-pad2_ net-_u23-pad2_ net-_u34-pad3_ d_and
* u40 net-_u34-pad3_ net-_u12-pad1_ net-_u40-pad3_ d_and
* u39 net-_u33-pad3_ net-_u29-pad6_ net-_u39-pad3_ d_and
* u36 net-_u12-pad2_ net-_u26-pad5_ net-_u36-pad3_ d_and
* u35 net-_u16-pad2_ net-_u25-pad2_ net-_u35-pad3_ d_and
* u30 net-_u29-pad6_ net-_u30-pad2_ d_inverter
* u37 net-_u21-pad2_ net-_u29-pad5_ net-_u37-pad3_ d_nand
* u42 net-_u37-pad3_ net-_u42-pad2_ d_inverter
* u38 net-_u30-pad2_ net-_u31-pad2_ net-_u38-pad3_ d_and
* u43 net-_u39-pad3_ net-_u40-pad3_ net-_u43-pad3_ d_or
* u46 net-_u43-pad3_ net-_u44-pad3_ net-_u46-pad3_ d_nor
* u50 net-_u46-pad3_ net-_u50-pad2_ d_inverter
* u44 net-_u36-pad3_ net-_u35-pad3_ net-_u44-pad3_ d_or
* u54 net-_u47-pad2_ net-_u54-pad2_ d_inverter
* u53 net-_u52-pad3_ net-_u50-pad2_ net-_u47-pad2_ d_and
* u52 net-_u48-pad2_ net-_u49-pad2_ net-_u52-pad3_ d_and
* u49 net-_u11-pad1_ net-_u49-pad2_ d_inverter
* u47 net-_u10-pad1_ net-_u47-pad2_ net-_u47-pad3_ d_nor
* u51 net-_u47-pad3_ net-_u51-pad2_ d_inverter
* u48 net-_u10-pad1_ net-_u48-pad2_ d_inverter
* u56 inh_out plot_v1
* u55 net-_u51-pad2_ net-_u54-pad2_ net-_u42-pad2_ net-_u45-pad2_ out out' 9_out inh_out dac_bridge_4
* u10 net-_u10-pad1_ net-_u10-pad2_ d_inverter
* u20 net-_u10-pad2_ net-_u19-pad1_ d_inverter
* u19 net-_u19-pad1_ net-_u19-pad2_ net-_u19-pad3_ d_nor
* u3 net-_u10-pad1_ net-_u19-pad2_ d_inverter
* u4 net-_u19-pad2_ net-_u10-pad2_ net-_u26-pad4_ d_nand
* u11 net-_u11-pad1_ net-_u11-pad2_ d_inverter
* u18 net-_u11-pad2_ net-_u18-pad2_ d_inverter
* u12 net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ d_and
* u21 net-_u12-pad3_ net-_u21-pad2_ net-_u21-pad3_ d_nor
* u24 net-_u17-pad2_ net-_u21-pad3_ net-_u24-pad3_ d_nor
* u28 net-_u24-pad3_ net-_u18-pad2_ net-_u19-pad1_ net-_u19-pad3_ net-_u21-pad2_ net-_u25-pad2_ d_tff
* u29 net-_u25-pad3_ net-_u18-pad2_ net-_u19-pad1_ net-_u19-pad3_ net-_u29-pad5_ net-_u29-pad6_ d_tff
* u25 net-_u17-pad2_ net-_u25-pad2_ net-_u25-pad3_ d_nor
* u1 clock plot_v1
* u2 net-_u2-pad1_ gnd clock net-_u2-pad4_ net-_u10-pad1_ net-_u11-pad1_ adc_bridge_3
v2 clock gnd pulse(5v 0v 0 1ps 1ps 100ms 200ms)
v1 net-_u2-pad1_ gnd  dc 5v
* u27 net-_u23-pad3_ net-_u18-pad2_ unconnected-_u27-pad3_ net-_u26-pad4_ net-_u12-pad1_ unconnected-_u27-pad6_ d_tff
* u26 net-_u22-pad3_ net-_u18-pad2_ unconnected-_u26-pad3_ net-_u26-pad4_ net-_u26-pad5_ net-_u23-pad2_ d_tff
* u23 net-_u17-pad2_ net-_u23-pad2_ net-_u23-pad3_ d_nor
* u22 net-_u17-pad2_ net-_u21-pad2_ net-_u22-pad3_ d_nor
* u16 net-_u16-pad1_ net-_u16-pad2_ d_inverter
* u15 net-_u15-pad1_ net-_u12-pad2_ d_inverter
* u17 net-_u17-pad1_ net-_u17-pad2_ d_inverter
* u5 net-_u2-pad4_ net-_u13-pad1_ d_inverter
* u6 net-_u2-pad4_ net-_u14-pad1_ d_inverter
* u13 net-_u13-pad1_ net-_u13-pad2_ d_inverter
* u14 net-_u14-pad1_ net-_u14-pad2_ d_inverter
* u9 net-_u10-pad1_ net-_u17-pad1_ d_inverter
* u8 net-_u10-pad1_ net-_u16-pad1_ d_inverter
* u7 net-_u2-pad4_ net-_u15-pad1_ d_inverter
* u45 net-_u41-pad3_ net-_u45-pad2_ d_inverter
* u41 net-_u38-pad3_ net-_u32-pad2_ net-_u41-pad3_ d_and
* u31 net-_u25-pad2_ net-_u31-pad2_ d_inverter
* u32 net-_u17-pad2_ net-_u32-pad2_ d_inverter
a1 [net-_u13-pad2_ net-_u21-pad2_ ] net-_u33-pad3_ u33
a2 [net-_u14-pad2_ net-_u23-pad2_ ] net-_u34-pad3_ u34
a3 [net-_u34-pad3_ net-_u12-pad1_ ] net-_u40-pad3_ u40
a4 [net-_u33-pad3_ net-_u29-pad6_ ] net-_u39-pad3_ u39
a5 [net-_u12-pad2_ net-_u26-pad5_ ] net-_u36-pad3_ u36
a6 [net-_u16-pad2_ net-_u25-pad2_ ] net-_u35-pad3_ u35
a7 net-_u29-pad6_ net-_u30-pad2_ u30
a8 [net-_u21-pad2_ net-_u29-pad5_ ] net-_u37-pad3_ u37
a9 net-_u37-pad3_ net-_u42-pad2_ u42
a10 [net-_u30-pad2_ net-_u31-pad2_ ] net-_u38-pad3_ u38
a11 [net-_u39-pad3_ net-_u40-pad3_ ] net-_u43-pad3_ u43
a12 [net-_u43-pad3_ net-_u44-pad3_ ] net-_u46-pad3_ u46
a13 net-_u46-pad3_ net-_u50-pad2_ u50
a14 [net-_u36-pad3_ net-_u35-pad3_ ] net-_u44-pad3_ u44
a15 net-_u47-pad2_ net-_u54-pad2_ u54
a16 [net-_u52-pad3_ net-_u50-pad2_ ] net-_u47-pad2_ u53
a17 [net-_u48-pad2_ net-_u49-pad2_ ] net-_u52-pad3_ u52
a18 net-_u11-pad1_ net-_u49-pad2_ u49
a19 [net-_u10-pad1_ net-_u47-pad2_ ] net-_u47-pad3_ u47
a20 net-_u47-pad3_ net-_u51-pad2_ u51
a21 net-_u10-pad1_ net-_u48-pad2_ u48
a22 [net-_u51-pad2_ net-_u54-pad2_ net-_u42-pad2_ net-_u45-pad2_ ] [out out' 9_out inh_out ] u55
a23 net-_u10-pad1_ net-_u10-pad2_ u10
a24 net-_u10-pad2_ net-_u19-pad1_ u20
a25 [net-_u19-pad1_ net-_u19-pad2_ ] net-_u19-pad3_ u19
a26 net-_u10-pad1_ net-_u19-pad2_ u3
a27 [net-_u19-pad2_ net-_u10-pad2_ ] net-_u26-pad4_ u4
a28 net-_u11-pad1_ net-_u11-pad2_ u11
a29 net-_u11-pad2_ net-_u18-pad2_ u18
a30 [net-_u12-pad1_ net-_u12-pad2_ ] net-_u12-pad3_ u12
a31 [net-_u12-pad3_ net-_u21-pad2_ ] net-_u21-pad3_ u21
a32 [net-_u17-pad2_ net-_u21-pad3_ ] net-_u24-pad3_ u24
a33 net-_u24-pad3_ net-_u18-pad2_ net-_u19-pad1_ net-_u19-pad3_ net-_u21-pad2_ net-_u25-pad2_ u28
a34 net-_u25-pad3_ net-_u18-pad2_ net-_u19-pad1_ net-_u19-pad3_ net-_u29-pad5_ net-_u29-pad6_ u29
a35 [net-_u17-pad2_ net-_u25-pad2_ ] net-_u25-pad3_ u25
a36 [net-_u2-pad1_ gnd clock ] [net-_u2-pad4_ net-_u10-pad1_ net-_u11-pad1_ ] u2
a37 net-_u23-pad3_ net-_u18-pad2_ unconnected-_u27-pad3_ net-_u26-pad4_ net-_u12-pad1_ unconnected-_u27-pad6_ u27
a38 net-_u22-pad3_ net-_u18-pad2_ unconnected-_u26-pad3_ net-_u26-pad4_ net-_u26-pad5_ net-_u23-pad2_ u26
a39 [net-_u17-pad2_ net-_u23-pad2_ ] net-_u23-pad3_ u23
a40 [net-_u17-pad2_ net-_u21-pad2_ ] net-_u22-pad3_ u22
a41 net-_u16-pad1_ net-_u16-pad2_ u16
a42 net-_u15-pad1_ net-_u12-pad2_ u15
a43 net-_u17-pad1_ net-_u17-pad2_ u17
a44 net-_u2-pad4_ net-_u13-pad1_ u5
a45 net-_u2-pad4_ net-_u14-pad1_ u6
a46 net-_u13-pad1_ net-_u13-pad2_ u13
a47 net-_u14-pad1_ net-_u14-pad2_ u14
a48 net-_u10-pad1_ net-_u17-pad1_ u9
a49 net-_u10-pad1_ net-_u16-pad1_ u8
a50 net-_u2-pad4_ net-_u15-pad1_ u7
a51 net-_u41-pad3_ net-_u45-pad2_ u45
a52 [net-_u38-pad3_ net-_u32-pad2_ ] net-_u41-pad3_ u41
a53 net-_u25-pad2_ net-_u31-pad2_ u31
a54 net-_u17-pad2_ net-_u32-pad2_ u32
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u33 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u34 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u40 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u39 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u36 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u35 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u30 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u37 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u42 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u38 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u43 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u46 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u50 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u44 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u54 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u53 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u52 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u49 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u47 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u51 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u48 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_4, Ngspice Name: dac_bridge
.model u55 dac_bridge(out_low=0v out_high=5v out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u19 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u4 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u12 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u21 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u24 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u28 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u29 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u25 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_3, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=0v in_high=5v rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u27 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u26 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u23 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u22 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u45 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u41 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u31 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u32 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 1e-03 1500e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(9_out)
plot v(out')
plot v(inh_out)
plot v(clock)
.endc
.end
